US09359359B2
Step 1 2-(3-(4-methyloxazol-2-yl)phenyl)acetonitrile
A solution of 3-(cyanomethyl)benzamide (200 mg, 1.25 mmol) in 1-chloropropan-2-one (2 mL) was microwave irradiated at 120 for 20 min in a sealed tube. The mixture was concentrated to give crude product (110 mg), which was directly used to the next reaction without purification. LCMS MH+ 199.

reactant | 3-(cyanomethyl)benzamide | 1.25 mmol, 200 mg | C(#N)CC=1C=C(C(=O)N)C=CC1 | C9H8N2O
reactant | 1-chloropropan-2-one | 2 mL | ClCC(C)=O | C3H5ClO
product | 2-(3-(4-methyloxazol-2-yl)phenyl)acetonitrile | 110 mg | CC=1N=C(OC1)C=1C=C(C=CC1)CC#N | C12H10N2O
